US07696215B2
To a mixture of methyl 3-[6-[(1E)-3-tert-butoxy-3-oxoprop-1-en-1-yl]-4-oxoquinazolin-3(4H)-yl]-4-methylbenzoate (1.11 g) and sodium periodate (1.24 g) in THF (20 ml) and water (6 ml) was added 2.5% wt solution of osmium tetroxide in tert-butanol (0.34 ml). The reaction was stirred at room temperature for 72 hours, diluted with THF (30 ml) and the precipitate removed by filtration. The resultant solution was concentrated and the residue dissolved in ethyl acetate, washed water/brine mixture, 10% aqueous solution of sodium thiosulfate (×2) and brine. The organic layers were concentrated to give a solid which was triturated with iso-hexane and collected by filtration to give methyl 3-(6-formyl-4-oxoquinazolin-3(4H)-yl)-4-methylbenzoate as a solid (0.54 g). NMR Spectrum: (DMSOd6) 2.21 (s, 3H), 3.88 (s, 3H), 7.64 (d, 1H), 7.93 (d, 1H), 8.05 (m, 1H), 8.11 (d, 1H), 8.32 (m, 1H), 8.48 (s, 1H), 8.77 (d, 1H), 10.19 (s, 1H); Mass Spectrum: M+H+ 323.

reactant | methyl 3-[6-[(1E)-3-tert-butoxy-3-oxoprop-1-en-1-yl]-4-oxoquinazolin-3(4H)-yl]-4-methylbenzoate | 1.11 g | C(C)(C)(C)OC(/C=C/C=1C=C2C(N(C=NC2=CC1)C=1C=C(C(=O)OC)C=CC1C)=O)=O | C24H24N2O5
reactant | sodium periodate | 1.24 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | THF | 20 ml | C1CCOC1 | C4H8O
reactant | THF | 30 ml | C1CCOC1 | C4H8O
solvent | water | 6 ml | O | H2O
solvent | tert-butanol | 0.34 ml | C(C)(C)(C)O | C4H10O
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
product | methyl 3-(6-formyl-4-oxoquinazolin-3(4H)-yl)-4-methylbenzoate | 0.54 g | C(=O)C=1C=C2C(N(C=NC2=CC1)C=1C=C(C(=O)OC)C=CC1C)=O | C18H14N2O4
